US09376422B2
Step 5: Synthesis of N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-5-[ethyl(oxan-4-yl)amino]-4-methylpyridine-3-carboxamide
To a stirred solution of 5-[ethyl(oxan-4-yl)amino]-4-methylpyridine-3-carboxylic acid (300 mg, 1.13 mmol) in DMF (10 ml) was added DIPEA (395 μl, 2.27 mmol) and HATU (518 mg, 1.36 mmol). The reaction was stirred at room temperature for 5 min after which time 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89%, 214 mg, 1.25 mmol) was added and the reaction was stirred at room temperature for 18 h. The reaction mixture was then poured onto 500 ml of water and the product was extracted into EtOAc (3×200 ml), the combined organic phase was washed with brine (2×100 ml), dried (Na2SO4) and evaporated. The crude product was then purified using preparative-HPLC and the resulting solid was triturated with diethyl ether and isolated by filtration to afford the title compound as an off white solid (115 mg, 25%). LC-MS 100%, m/z=399.2, 1H NMR (500 MHz, Acetone) δ 10.97 (s, 1H), 8.32 (s, 1H), 8.22 (s, 1H), 7.73 (s, 1H), 5.92 (s, 1H), 4.41 (d, J=5.3 Hz, 2H), 3.85 (dd, J=11.3, 3.0 Hz, 2H), 3.28 (td, J=11.7, 1.9 Hz, 2H), 3.15 (q, J=7.1 Hz, 2H), 3.09 (ddd, J=11.1, 7.2, 3.9 Hz, 1H), 2.32 (d, J=1.5 Hz, 6H), 2.23 (s, 3H), 1.69 (dd, J=12.6, 1.7 Hz, 2H), 1.55 (ddd, J=24.3, 12.2, 4.4 Hz, 2H), 0.85 (t, J=7.1 Hz, 3H).

reactant | 5-[ethyl(oxan-4-yl)amino]-4-methylpyridine-3-carboxylic acid | 1.13 mmol, 300 mg | C(C)N(C=1C(=C(C=NC1)C(=O)O)C)C1CCOCC1 | C14H20N2O3
reactant | DIPEA | 2.27 mmol, 395 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.36 mmol, 518 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 1.25 mmol, 214 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 500 ml | O | H2O
product | N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-5-[ethyl(oxan-4-yl)amino]-4-methylpyridine-3-carboxamide | CC1=C(C(NC(=C1)C)=O)CNC(=O)C=1C=NC=C(C1C)N(C1CCOCC1)CC | C22H30N4O3
